US08283353B2
4′-({5-oxo-7-propyl-4-[trans-4-(tetrahydro-2H-pyran-4-ylamino)cyclohexyl]-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile
4′-{[5-Oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (2.0 g) and tetrahydro-2H-pyran-4-amine (0.43 g) were dissolved in acetic acid (20 mL) and tetrahydrofuran (8 mL), sodium triacetoxyborohydride (1.3 g) was gradually added at room temperature, and the mixture was stirred at room temperature for 24 hr. Water was added, and the solvent was evaporated under reduced pressure. The residue was gradually added to saturated aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.77 g, 32%).

reactant | 4′-{[5-Oxo-4-(4-oxocyclohexyl)-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 2.0 g | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)C2CCC(CC2)=O | C28H27N5O2
reactant | tetrahydro-2H-pyran-4-amine | 0.43 g | O1CCC(CC1)N | C5H11NO
reactant | sodium triacetoxyborohydride | 1.3 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Water | O | H2O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
product | 4′-({5-oxo-7-propyl-4-[trans-4-(tetrahydro-2H-pyran-4-ylamino)cyclohexyl]-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl}methyl)biphenyl-2-carbonitrile | 0.77 g, 32% | O=C1N(C=2N(C(=C1CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=CN2)[C@@H]2CC[C@H](CC2)NC2CCOCC2 | C33H38N6O2
